US06201154B1
A solution of 4-fluorophenylacetylene (0.02 mol) and benzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) was subjected to the General Procedure to form Z-4-fluorostyryl benzylsulfide. The title compound was obtained in 76% yield following oxidation. 1HNMR (CDC13) δ 4.54 (2H, s), 6.68 (1H, d, JH,H=11.94), 7.12-7.58 (9H aromatic+1H ethylenic).

reactant | 4-fluorophenylacetylene | 0.02 mol | FC1=CC=C(C=C1)C#C | C8H5F
reactant | benzyl mercaptan | 0.02 mol | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium | 0.02 g | [Na] | Na
product | Z-4-fluorostyryl benzylsulfide | FC1=CC=C(\C=C/C(C2=CC=CC=C2)SC(C2=CC=CC=C2)\C=C/C2=CC=C(C=C2)F)C=C1 | C30H24F2S
